US06884801B1
2-Amino-N-(2-hydroxypropyl)benzamide (prepared from 1-amino-2-propanol and isatoic anhydride, using the methods described in Example 17) and CMI were reacted using conditions described in the general procedure for CMI coupling to give 2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino)-N-(2-hydroxypropyl)benzamide, isolated as the hydrochloride salt.

reactant | 2-Amino-N-(2-hydroxypropyl)benzamide | NC1=C(C(=O)NCC(C)O)C=CC=C1 | C10H14N2O2
reactant | 1-amino-2-propanol | NCC(C)O | C3H9NO
reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
product | 2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino)-N-(2-hydroxypropyl)benzamide | N1C(=NCC1)CNC1=C(C(=O)NCC(C)O)C=CC=C1 | C14H20N4O2
